US06849652B1
3-fluoro-4-methylsulfanylphenylamine
10.0 g of 3-fluoro-4-methylsulfanylnitrobenzene prepared in the above example 1, 0.1 eq of Pd/C (5 wt %), 4 eq of amonium formate were dissolved in THF/MeOH (1:1) and refluxed for 3 hours. The solid, which was not dissolved in the solution, was filtered away, and the filtrate was distilled under reduced pressure to obtain oily compound, which was dissolved again in 80 ml of ethyl acetate. Solid amonium formate which was not dissolved in the solution, was filtered away, and the filtrate was distilled under reduced pressure to obtain oily filtrate, which was purified by column chromatography (ethyl acetate:n-Hexane=1:3) to give 6.04 g of the title compound as a yellow solid (yield 88%).

reactant | 3-fluoro-4-methylsulfanylnitrobenzene | 10.0 g | FC=1C=C(C=CC1SC)[N+](=O)[O-] | C7H6FNO2S
reactant | amonium formate | 4 eq | C(=O)[O-].[NH4+]
solvent | THF MeOH | C1CCOC1.CO
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.1 eq | [Pd] | Pd
product | 3-fluoro-4-methylsulfanylphenylamine | 6.04 g, yield 88% | FC=1C=C(C=CC1SC)N | C7H8FNS
